US08193356B2
To a suspension of 3-(4-fluorophenylacetyl)-4-hydroxy-1-(3-trifluoromethylphenyl)-1,8-naphthyridin-2(1H)-one (604 mg, 1.4 mmol) produced in Synthesis Example 34 in DMF (5.5 mL) was added hydrazine monohydrate (purity of 80%, 220 μL), and the mixture was stirred at 110 to 120° C. for 2 hours. To the reaction solution was added a sodium hydrogencarbonate aqueous solution. The resulting precipitate was separated by filtration, washed with water, and dried to give 3-(4-fluorobenzyl)-5-(3-trifluoromethylphenyl)-1H-pyrazolo[4,3-c][1,8]-naphthyridin-4(5H)-one as a form of crystal (536 mg, yield 90%).

reactant | 3-(4-fluorophenylacetyl)-4-hydroxy-1-(3-trifluoromethylphenyl)-1,8-naphthyridin-2(1H)-one | 1.4 mmol, 604 mg | FC1=CC=C(C=C1)CC(=O)C=1C(N(C2=NC=CC=C2C1O)C1=CC(=CC=C1)C(F)(F)F)=O | C23H14F4N2O3
reactant | hydrazine monohydrate | 220 μL | O.NN
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 5.5 mL | CN(C)C=O | C3H7NO
product | 3-(4-fluorobenzyl)-5-(3-trifluoromethylphenyl)-1H-pyrazolo[4,3-c][1,8]-naphthyridin-4(5H)-one | FC1=CC=C(CC2=NNC3=C2C(N(C=2N=CC=CC32)C3=CC(=CC=C3)C(F)(F)F)=O)C=C1 | C23H14F4N4O
